US05859051
Step C: Preparation of 4-tert-butylmethyl-7-hydroxy-8-propylcoumarin
A solution of 7-benzyloxy-4-tert-butyl-8-propylcoumarin (718 mg) in ethyl acetate (25 mL) was treated with 10% palladium (107 mg) on carbon. The mixture was shaken under a hydrogen atmosphere (40 psi) for six hours. The mixture was filtered through Celite and concentrated to get the title compound.

reactant | 7-benzyloxy-4-tert-butyl-8-propylcoumarin | 718 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(OC2=C1CCC)=O)C(C)(C)C | C23H26O3
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 107 mg | [Pd] | Pd
product | 4-tert-butylmethyl-7-hydroxy-8-propylcoumarin | C(C)(C)(C)C1=C(C(OC2=C(C(=CC=C12)O)CCC)=O)C | C17H22O3
